US04829074
To a solution of imidazole (1.23 g) and 1,1-bis(4-trifluoromethoxyphenyl)-1-hydroxy-2-(2H-tetrazol-2-yl)propane prepared as described in Example b 3 (1.34 g) in dry acetonitrile (50 ml) under an atmosphere of nitrogen, was added thionylchloride (1.07 g). A precipitate appeared and the reaction was stirred at room temperature for 5 hours. The mixture was then poured into water (100 ml) and extracted with ether (2×70 ml). The organic extracts were combined and washed well with saturated aqueous sodium bicarbonate solution (50 ml) then with water (50 ml). The organic layer was dried over anhydrous magnesium sulphate, and evaporated to give a yellow oil which was purified by h.p.l.c. on a silica gel column eluted with n-hexane/ethyl acetate (5:1) to give a colourless oil (900 mg).

reactant | imidazole | 1.23 g | N1C=NC=C1 | C3H4N2
reactant | 1,1-bis(4-trifluoromethoxyphenyl)-1-hydroxy-2-(2H-tetrazol-2-yl)propane | FC(OC1=CC=C(C=C1)C(C(C)N1N=CN=N1)(O)C1=CC=C(C=C1)OC(F)(F)F)(F)F | C18H14F6N4O3
reactant | thionylchloride | 1.07 g | S(=O)(Cl)Cl | Cl2OS
reactant | water | 100 ml | O | H2O
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | Ethyl-2-(2H-tetrazol-2-yl)propionate | 900 mg | C(C)OC(C(C)N1N=CN=N1)=O | C6H10N4O2
